US04663333
Preparation of N-ethyl-N-(4-pyridinylmethyl)-2-propenamide
Following the method of Example 3, 4-picolyl-ethylamine (4.27 g, 0.035 mole) was reacted with acryloyl chloride (3.15 g, 0.035 mole) was triethylamine (21 ml) and purified by chromatography on silica.

reactant | 4-picolyl-ethylamine | 0.035 mole, 4.27 g | N1=CC=C(C=C1)CNCC | C8H12N2
reactant | acryloyl chloride | 0.035 mole, 3.15 g | C(C=C)(=O)Cl | C3H3ClO
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
product | N-ethyl-N-(4-pyridinylmethyl)-2-propenamide | C(C)N(C(C=C)=O)CC1=CC=NC=C1 | C11H14N2O
